US07507740B2
(i) Production of N-(4,6-diiodopyrimidin-5-yl)-2,2,2-trifluoro-N-methylacetamide
4,6-Diiodopyrimidin-5-amine (20 g) was dissolved in dichloromethane (200 mL), and trifluoroacetic anhydride (47.3 mL) and triethylamine (8.04 mL) were successively added dropwise. The mixture was stirred at room temperature for 1 hr, and the reaction mixture was concentrated under reduced pressure. The residue was dissolved in methanol (150 mL), and concentrated again under reduced pressure to give a colorless solid. The obtained solid was dissolved in N,N-dimethylformamide (106 mL), potassium carbonate (15.9 g) and iodomethane (10.8 mL) were added, and the mixture was stirred at room temperature for 16 hrs. The reaction mixture was diluted with diethyl ether (400 mL) and washed with water (400 mL). The organic layer was dried over magnesium sulfate and concentrated under reduced pressure to give the title compound (25.1 g) as a colorless solid.

reactant | 4,6-Diiodopyrimidin-5-amine | 20 g | IC1=NC=NC(=C1N)I | C4H3I2N3
reactant | trifluoroacetic anhydride | 47.3 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | potassium carbonate | 15.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 10.8 mL | IC | CH3I
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 106 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | 400 mL | C(C)OCC | C4H10O
solvent | triethylamine | 8.04 mL | C(C)N(CC)CC | C6H15N
product | N-(4,6-diiodopyrimidin-5-yl)-2,2,2-trifluoro-N-methylacetamide | 25.1 g | IC1=NC=NC(=C1N(C(C(F)(F)F)=O)C)I | C7H4F3I2N3O
